US07687503B2
5.1. 1,1-dimethylethyl 2-(methylamino)-2-oxoethyl 1,4-piperazinedicarboxylate
A solution of 0.53 g (2.85 mmol) of 1,1-dimethylethyl 1-piperazinecarboxylate in 5 ml of 1,2-dichloroethane is added dropwise at about 0° C. to a solution, cooled to 0° C., of 1.1 g (3 mmol) of 2-(methylamino)-2-oxoethyl 4-nitrophenyl carbonate, prepared in step 2.2. of Example 2, in 10 ml of 1,2-dichloroethane. Stirring is continued at 0° C. for 1 hour, and then at room temperature for 3 hours. The reaction mixture is concentrated under reduced pressure and the residue thus obtained is purified by chromatography on silica gel, eluting with a 20/80 mixture of ethyl acetate and cyclohexane. The gradient is gradually increased to complete the elution with ethyl acetate. An oily residue that crystallizes from diisopropyl ether is obtained. 0.61 g of product is obtained in the form of a white solid, and is used without further purification in the following step.

reactant | 1,1-dimethylethyl 1-piperazinecarboxylate | 2.85 mmol, 0.53 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 2-(methylamino)-2-oxoethyl 4-nitrophenyl carbonate | 3 mmol, 1.1 g | C(OCC(=O)NC)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C10H10N2O6
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | 1,1-dimethylethyl 2-(methylamino)-2-oxoethyl 1,4-piperazinedicarboxylate | 0.61 g | N1(CCN(CC1)C(=O)OCC(=O)NC)C(=O)OC(C)(C)C | C13H23N3O5
